US06313162B1
(b) 4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoyl chloride
2.9 g (8.3 mmol) of 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid and 100 ml of dichloromethane are introduced into a round-bottomed flask under a stream of nitrogen and 2.4 ml (12.1 mmol) of dicyclohexylamine are added dropwise. The mixture is stirred at room temperature for one hour, 1.2 ml (11.7 mmol) of thionyl chloride are added dropwise and the mixture is stirred for one hour. The reaction medium is evaporated to dryness, the residue is taken up in ethyl ether, the dicyclohexylamine salt is filtered off and the filtrate is evaporated. 3 g (100%) of the crude acid chloride are collected, which product will be used in its current state for the rest of the synthesis.

reactant | 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid | 8.3 mmol, 2.9 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC#CC1=CC=C(C(=O)O)C=C1)C | C24H26O2
reactant | dicyclohexylamine | 12.1 mmol, 2.4 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 11.7 mmol, 1.2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoyl chloride | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC#CC1=CC=C(C(=O)Cl)C=C1)C | C24H25ClO
